US06133258
The reaction procedure of Example 102 was followed except that 1.669 g of 2-chloronicotinoyl chloride, 722 mg of ammonium thiocyanate, 1.55 g of 5-(methylamino)benzo[b]thiophene and 35 ml of acetone were used. The product was then recrystallized from a mixture of ethanol and ethyl acetate to obtain 546 mg of 2-[N-(benzo[b]thiophen-5-yl)-N-methylamino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinoyl chloride | 1.669 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | ammonium thiocyanate | 722 mg | [S-]C#N.[NH4+]
reactant | 5-(methylamino)benzo[b]thiophene | 1.55 g | CNC1=CC2=C(SC=C2)C=C1 | C9H9NS
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | 2-[N-(benzo[b]thiophen-5-yl)-N-methylamino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 546 mg | S1C2=C(C=C1)C=C(C=C2)N(C)C=2SC1=C(C(N2)=O)C=CC=N1 | C16H11N3OS2
